US08207352B2
To a solution of racemic 3-[4-(4-cyanophenyl)thiazol-2-yl]-1-(1H-1,2,4-triazol-1-yl)-2-(2,4-difluorophenyl)-butan-2-ol (43.7 g) in acetone (800 ml) a solution of (1R)-10-camphorsulfonic acid (23 g) in methanol (300 ml) was added and the mixture was heated under reflux until a clear solution was obtained. The solution was slowly cooled to rt, seeded with crystals of the title enantiomeric salt and let overnight. The solid was collected by filtration, washed with acetone and dried to provide (2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-1-(1H-1,2,4-triazol-1-yl)-2-(2,4-difluorophenyl)-butan-2-ol (1R)-10-camphorsulfonate as white solid. This crude salt was then taken up in methylenechloride (100 ml) and water (ca. 100 ml) and the mixture was basified with aqueous sodium hydroxide solution. The organic layer was separated and the aqueous phase washed twice with methylenechloride (50 ml) and combined. The organic phases were then washed twice with water (2×50 ml), dried with sodium sulfate, filtrated and the solvent removed under reduced pressure. The crude product was then mixed with isopropanol (ca. 150 ml), heated for 10 min, cooled to 0° C. and stirred for ca. 2 hrs. The product was collected, washed with isopropanol and dried under reduced pressure to provide the enantiomerically pure title compound (17.5 g, 41% yield, 99.1% ee); m.p. 164-166° C.; [α]=−30° (c=1, methanol, 25° C.); NMR (CDCl3): 1.23 (3H, d, J=8 Hz), 4.09 (1H, q, J=8 Hz), 4.26 (1H, d, J=14 Hz), 4.92 (1H, d, J=14 Hz), 5.75 (1H, s), 6.75-6.85 (2H, m), 7.45-7.54 (2H, m), 7.62 (1H, s), 7.69 (1H, s), 7.75 (1H, d, J=8 Hz), 7.86 (1H, s), 8.03 (1H, d, J=8 Hz). The analytical data were identical with published (U.S. Pat. No. 5,648,372 and Chem. Pharm. Bull. 1998, 46, 623-630).

reactant | racemic 3-[4-(4-cyanophenyl)thiazol-2-yl]-1-(1H-1,2,4-triazol-1-yl)-2-(2,4-difluorophenyl)-butan-2-ol | 43.7 g | C(#N)C1=CC=C(C=C1)C=1N=C(SC1)C(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)C | C22H17F2N5OS
reactant | (1R)-10-camphorsulfonic acid | 23 g | [C@@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | acetone | 800 ml | CC(=O)C | C3H6O
solvent | methanol | 300 ml | CO | CH4O
product | (2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-1-(1H-1,2,4-triazol-1-yl)-2-(2,4-difluorophenyl)-butan-2-ol (1R)-10-camphorsulfonate | [C@@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O[C@](CN2N=CN=C2)([C@@H](C)C=2SC=C(N2)C2=CC=C(C=C2)C#N)C2=C(C=C(C=C2)F)F | C32H31F2N5O4S2
